US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol), (1H-benzo[d]imidazol-2-yl)methanamine (10.24 mg, 0.070 mmol), HATU (22.92 mg, 0.060 mmol), and 4-methylmorpholine (18.76 mg, 0.185 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 45-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-N-((1H-benzo[d]imidazol-2-yl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (12.8 mg, 0.023 mmol, 49.3% yield): LCMS=561.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.19 (2 H, d, J=8.58 Hz), 7.51-7.79 (10 H, m), 7.34 (2 H, dd, J=6.05, 3.19 Hz), 5.27 (1 H, s), 4.76-4.94 (2 H, m); HPLC peak RT=2.6 min (Method E).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (1H-benzo[d]imidazol-2-yl)methanamine | 0.070 mmol, 10.24 mg | N1C(=NC2=C1C=CC=C2)CN | C8H9N3
reactant | HATU | 0.060 mmol, 22.92 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.185 mmol, 18.76 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-((1H-benzo[d]imidazol-2-yl)methyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.023 mmol, 12.8 mg, 49.3% yield | N1C(=NC2=C1C=CC=C2)CNC(C(C2=CC=C(C=C2)C2=NOC(=N2)C2=C(C(=NO2)C2=CC=CC=C2)C(F)(F)F)O)=O | C28H19F3N6O4
